### PR TITLE
6.53, antiSerreDerPos (addresses #91)

### LINKED ISSUE #91: Prove main lemma for modular form inequalities - Anti-Serre derivative preserves positivity
Theorem 6.53 of blueprint.

### PR DESCRIPTION
**Pull request by archiebrowne**
Prove antiSerreDerPos (6.53 in the blueprint) using helper lemmas pos_of_deriv_neg_at_zeros, neg_after_zero_of_deriv_neg. I added (hMD : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) F) to the hypotheses as (I think?) it was missing. 

Addresses #91

### CODE REVIEW

**Comment by archiebrowne** [comment]
> Hi, could you merge main branch and possibly make CI works?

This is building locally now - sorry it took so long haha

File: SpherePacking/ModularForms/FG.lean [hunk 1]
```diff
@@ -101,6 +101,11 @@ theorem SerreF_holo : MDiff (serre_D 10 F) := by unfold F; fun_prop
 
 theorem SerreG_holo : MDiff (serre_D 10 G) := by rw [G_eq]; fun_prop
 
+theorem L₁₀_holo : MDiff L₁₀ := by
+  unfold L₁₀
+  exact (D_differentiable F_holo).mul G_holo
+    |>.sub (F_holo.mul (D_differentiable G_holo))
```
Comment (seewoo5) [inline SpherePacking/ModularForms/FG.lean]:
```suggestion
theorem L₁₀_holo : MDiff L₁₀ := by unfold L₁₀; fun_prop
```
This may work?

**Review by seewoo5 — DISMISSED** [review]
Thank you! Just one minor comment.

File: SpherePacking/ModularForms/FG.lean (hunk 1 above)
Comment (archiebrowne) [reply SpherePacking/ModularForms/FG.lean]: This worked upon tagging `G_holo` with `@[fun_prop]` - thanks

**Review by seewoo5 — APPROVED** [review]
